Name:  ___                Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Patient recorded as having No Known Allergies to Drugs
 
Attending: ___
 
Chief Complaint:
Dypnea on exertion
 
Major Surgical or Invasive Procedure:
Cardiac catheterization

 
History of Present Illness:
___ y/o gentleman with HTN has experienced cold and minimally 
productive cough for the last couple of months.  Patient has 
experienced dyspnea on exertion in the last week.  Patient was 
able to walk for approx 1 mile asymptomatic prior to last week.  
He gets SOB with less than 0.5 block this week.  Peripheral 
edema around his ankle for the last week.  Now has improved.  2 
pillows orhtopnea in the last week.  No PND.  Denies any chest 
pain, palpitations, nausea, vomitting, diapheresis, chills.  Has 
not seen a doctor for ___ years.
Patient went to ___ and was found to have ST 
elevations in anterior leads.  He was started on heparin and NTG 
drip and transfered here. 
In the ED at ___ patient recieved plavix of 600 mg PO.  VSS 
and patient was chest pain free.  He was transfered to the floor 
for further management.
.

 
Past Medical History:
Uncontrolled hypertension
 
Social History:
___
Family History:
Father MI ___.  Mother with CAD.
 
Physical Exam:
Vitals: 97.7  ___  97% RA
Gen: Alert and awake.  NAD. Pleasant gentleman.  Follows 
commands
HEENT: PERRL, MMM, OP clear, JVP flat
Heart: S1S2 RRR, no MRG
Lungs: CTAB
Abdomen: Soft NTND, no organomegaly, no bruit, aorta nonpalpable
Ext: WWP, no edema
Neuro:  Spontaneously moves all 4 extremities
Pulses: Femoral and DP 2+ b/l, no femoral bruit
.

 
Pertinent Results:
At OSH: CK 64, Trop 0.032, BNP 713
INR 1.1, BUN 13, Cr 0.9
WBC 8.1, HCT 50.4, Plt 211
please see below for labs here
.
Labs here:
___ 03:00PM BLOOD WBC-9.5 RBC-5.51 Hgb-15.8 Hct-46.1 MCV-84 
MCH-28.6 MCHC-34.2 RDW-15.7* Plt ___
___ 03:00PM BLOOD Neuts-91.0* Lymphs-5.2* Monos-3.5 Eos-0.2 
Baso-0.1
___ 03:00PM BLOOD Plt ___
___ 05:45AM BLOOD ___ PTT-28.2 ___
___ 05:45AM BLOOD Glucose-87 UreaN-13 Creat-0.9 Na-143 
K-3.9 Cl-103 HCO3-29 AnGap-15
___ 03:00PM BLOOD Calcium-9.4 Phos-4.2 Mg-2.1
___ 05:45AM BLOOD %HbA1c-5.9
___ 05:45AM BLOOD Triglyc-85 HDL-52 CHOL/HD-2.9 LDLcalc-83
___ 03:00PM BLOOD CK(CPK)-145
___ 09:25PM BLOOD ALT-20 AST-14 CK(CPK)-52
___ 05:45AM BLOOD CK(CPK)-41
___ 07:50AM BLOOD CK(CPK)-99
___ 03:00PM BLOOD CK-MB-4 proBNP-6133*
___ 03:00PM BLOOD cTropnT-<0.01
___ 09:25PM BLOOD CK-MB-NotDone cTropnT-0.01 proBNP-8584*
___ 05:45AM BLOOD CK-MB-NotDone cTropnT-<0.01
.
CHEST (PA & LAT)  ___:
Acute cardiogenic failure characterized by interstitial edema, 
cardiomegaly, and pleural effusion.
.
ECG ___:
Sinus rhythm at upper limits of normal rate. Consider left 
atrial abnormality. Q waves in leads II, III and aVF. Consider 
inferior myocardial infarction of undetermined age. R wave 
reversal in leads V2-V3 with Q waves through lead V6 with ST 
segment elevation. Consider acute anterior myocardial 
infarction. No previous tracing available for comparison. 
Clinical correlation is suggested. 
.
TTE ___:
The left atrium is moderately dilated. The estimated right 
atrial pressure is ___. Left ventricular wall thicknesses 
are normal. The left ventricular cavity is severely dilated with 
akinesis of the distal half of the ventricle with an apical 
aneurysm. The basal segments are hypokinetic (LVEF <20 %). Left 
ventricular cardiac index is severely depressed (<2.0L/min/m2). 
No masses or thrombi are seen in the left ventricle, but the 
apex is heavily trabeculated. The right ventricular cavity is 
mildly dilated with focal hypokinesis of the mid free wall. The 
aortic root is moderately dilated at the sinus level. The aortic 
arch is mildly dilated. The aortic valve leaflets appear 
structurally normal with good leaflet excursion. Trace aortic 
regurgitation is seen. The mitral leaflets appear structurally 
normal. Mild to moderate (___) mitral regurgitation is seen. 
There is a small pericardial effusion most prominent around the 
right atrium without evidence of diastolic collapse/tamponade 
physiology.
IMPRESSION: Severe left ventricular cavity enlargement with 
regional and global systolic dysfunction c/w diffuse process 
(multivessel CAD most likely, but cannot exclude toxin, 
metabolic, etc.). Mild moderate mitral regurgitation. Dilated 
ascending aorta and arch.
If clinically indicated, a cardiac MR may be more sensitive for 
detection of a left ventricular thrombus. 
.
Cardiac Catheterization ___: Prelim:
1. Selective coronary angiography of this left dominant system 
demonstrated three vessel coronary artery disease. The LMCA had 
diffuse 
___ stenosis. The LAD was heavily calcified with diffuse mild 

plaquing proximally, severe disease after S1 with total 
occlusion. The 
disetal vessel was not visualized. The S1 had 50% stenosis at 
its 
origin. The LCX was heavily calcified with mid 85% stenosis 
after modest 
OM1. The OM2 and OM3 were small. The upper pole of OM1 was 
occluded and 
filled retrograde by left to left collaterals. The OM3 had 
subtotal 
occlusion proximally. The distal AV groove CX had 90% stenosis 
before 
LPDA and collaterals to distal RCA. The RCA was moderately 
calcified 
with mid ___ stenosis. There was diffuse plaquing in the distal 
AV 
groove RCA supplying the RPLs with faint filling of very disstal 
AVG 
groove RCA. 
2. Resting hemodynamics were performed. The right sided filling 
pressures were within normal range (mean RA pressure was 6mmHg 
and RVEDP 
was 9mmHg). The pulmonary artery pressures were elevated 
measuring 
42/23mmHg. The left sided filling pressures were elevated (mean 
PCW 
pressure was 25mmHg and LVEDP was 28mmHg). The systemic arterial 

pressures were within normal range measuring 105/75mmHg. There 
was no 
significant gradient across the aortic valve upon pull back of 
the 
catheter from the left ventricle into the ascending aorta. The 
cardiac 
index calculated using an assumed oxygen consumption rate was 
normal at 
2.4 l/min/m2.   
FINAL DIAGNOSIS:     
1. Three vessel coronary artery disease. 
2. Elevated left sided filling pressures. 
3. Normal cardiac index. 
.
CTA CORONARY ARTERIES W/QUANTITATIVE CALCIUM  ___: Prelim:
CTA CORONARY ARTERIES W/QUANTI; CT HEART W&W/O CONTRAST;GATING
1. Moderate bibasal effusions with atelectasis at the lung 
bases.
2. Extensive coronary atherosclerosis.
Please note further details of the CT coronary angiography will 
be added as an addendum once reconstructions have been performed 
in the 3D imaging lab.
.
 
Brief Hospital Course:
___ year old gentleman with uncontrolled hypertension has 
experienced dyspnea on exertion for one week.
.
# Coronary artery disease:  EKG suggests ischemic cardiomyopathy 
with aneurysm.  Cardiac enzymes were negative.  Patient's 
presentation is consistent with old ischemic episodes.  Cardiac 
catheterization showed three vessel disease.  Appreciated 
cardiac surgery evaluation for possible CABG.  Given his 
comorbidities and no benefit to be gained from LAD bypass, CABG 
was not recommended.  Patient was treated medically with full 
dose Aspirin, Lipitor 80 mg daily, carvedilol and lisinopril.  
Echocardiogram showed EF < 20% with hypokinesis and aneurysmal 
apex.  Patient was started on heparin drip.  Patient was 
discharged on lovenox bridge to coumadin.  Stress MIBI results 
reviewed with cardiologists suggest that there may be some 
viability in lateral and inferior walls.  Patient was 
recommended Percutaneous coronary intervention.  Patient wanted 
to go home and decide later.  
.
# Pump: Admitted with acute systolic heart failure.  Most likely 
due to multivessel coronary artery disease and/or severe 
uncontrolled hypertension.  Patient was diureses with lasix and 
spiranolactone.  Patient responded to this treatement.  He was 
also started on carvedilol and lisinopril as above.  Patient 
will follow up with ___ as out patient.  He will need 
a repeat echocardiogram in 4 to 5 weeks to reassess for possible 
ICD placment for primary prevention.  Patient will decide 
whether to get PCI and notify ___.  Anticoagulation as 
above.  His functional status improved prior to discharge.
.
# Contact: Wife ___ ___
.
# Code: Full confirmed with patient
.
 
Medications on Admission:
Home Medications:
none
.
Medications on Transfer:
ASA 325 mg daily
Heparin gtt
NTG gtt
Lasix 40 mg IV once
Lopressor 5 mg IV three times today
.

 
Discharge Medications:
1. Atorvastatin 80 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
2. Aspirin 325 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).  
3. Furosemide 40 mg Tablet Sig: One (1) Tablet PO BID (2 times a 
day).
Disp:*60 Tablet(s)* Refills:*2*
4. Lisinopril 10 mg Tablet Sig: One (1) Tablet PO DAILY (Daily).
Disp:*60 Tablet(s)* Refills:*2*
5. Spironolactone 25 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).
Disp:*60 Tablet(s)* Refills:*2*
6. Carvedilol 12.5 mg Tablet Sig: One (1) Tablet PO BID (2 times 
a day).
Disp:*60 Tablet(s)* Refills:*2*
7. Lovenox 80 mg/0.8 mL Syringe Sig: One (1)  Subcutaneous twice 
a day.
Disp:*30 * Refills:*2*
8. Outpatient Lab Work
Please check INR on ___ and ___. 
 Please send results to the office of Dr. ___ 
___  phone: ___ fax: ___.

9. Warfarin 1 mg Tablet Sig: One (1) Tablet PO once a day: take 
with 2mg pills to total 5mg per day (dose will be adjusted by 
Dr. ___ based on your blood level).
Disp:*60 Tablet(s)* Refills:*2*
10. Warfarin 2 mg Tablet Sig: Two (2) Tablet PO once a day: take 
in combination with 1mg pills to total 5 mg per day (dose will 
be adjusted by Dr. ___ based on your blood level).
Disp:*60 Tablet(s)* Refills:*2*

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Acute systolic heart failure
Coronary artery disease status post myocardial infarction
Uncontrolled hypertension

 
Discharge Condition:
Asymptomatic and hemodynamically stable.

 
Discharge Instructions:
You were admitted to ___ with 
heart failure.  Your heart failure is most likely due to 
previous heart attacks.  You recieved diuretics to improve heart 
failure.  You had a procedure called cardiac catheterization 
which showed multiple obstruction in the arteries supplying 
blood to your heart.  Cardiac surgeons evaluated you but advised 
against bypass surgery as risks outweighed benefits.  You may 
benefit from coronary angioplasty with stents but you wanted to 
go home and come back later to get the procedure done.  
.
Please take all of the medications as written.  You are started 
on full dose aspirin, atorvastatin, carvedilol and lisinopril.  
You were also started on lasix (furosemide) and aldactone to 
take extra fluid off of your body.  You were started on blood 
thinner called lovenox as you are at risk for developing blood 
clots due to poor heart structure/function.
.
Please check your weight every day first thing in the morning 
after urinating.  Please call Dr. ___ if weight is 
increasing by greater than 3 pounds.  Weight on discharge 78.6kg 
or 173 pounds.
.
Please keep all of the follow up appointments.  You need a 
repeat Echocardiogram in four weeks to assess your heart 
function.  If your heart function is still depressed, you may 
need an ICD.  Please discuss this with your cardiologist.
.
If you develop chest pain, shortness of breath or any other 
concerning sympotms, please call your primary care doctor or 
come to the Emergency Department.
 
Followup Instructions:
___